US07767675B2
Step 1. 1-[(2,2-dimethoxyethyl)thio]-4-methoxybenzene
To an ice cooled solution of sodium ethoxide (3.26 g, 48.0 mmol) in ethanol (25.0 mL) was slowly added 4-methoxybenzenethiol (6.73 g, 48.0 mmol). The reaction mixture was stirred for 15 min. 2-Bromo-1,1-dimethoxyethane (5.64 mL, 48.0 mmol) was added, and the reaction mixture was refluxed for 2 h. After the precipitate was isolated by filtration, the mother liquor was evaporated under reduced pressure. The resultant residue was diluted with diethyl ether (100 mL) and washed with water and brine, dried over sodium sulfate, filtered, and concentrated to give the desired crude product (11.0 g) which was directly used in next step reaction without further purification. 1H-NMR (400 MHz, CDCl3): 7.40 (m, 2H), 6.85 (m, 2H), 4.47 (t, J=5.6 Hz, 1H), 3.80 (s, 3H), 3.34 (s, 6H), 3.01 (d, J=5.6 Hz, 2H).

reactant | sodium ethoxide | 48.0 mmol, 3.26 g | [O-]CC.[Na+]
reactant | 4-methoxybenzenethiol | 48.0 mmol, 6.73 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | 2-Bromo-1,1-dimethoxyethane | 48.0 mmol, 5.64 mL | BrCC(OC)OC | C4H9BrO2
solvent | ethanol | 25.0 mL | C(C)O | C2H6O
product | 1-[(2,2-dimethoxyethyl)thio]-4-methoxybenzene | 11.0 g | COC(CSC1=CC=C(C=C1)OC)OC | C11H16O3S
